US07919519B2
5-Benzyl-2-(4-(dimethoxymethyl)-2-fluorophenyl)benzo[d]oxazole (0.160 g, 0.424 mmol) was dissolved in 2 mL THF and 1 mL 5N HCl was added. The mixture was stirred for 1 h, diluted with DCM, and quenched with 10N NaOH until basic. The aqueous was extracted 2×DCM. Combined organics were dried over sodium sulfate, filtered, and concentrated to give 4-(5-benzylbenzo[d]oxazol-2-yl)-3-fluorobenzaldehyde as an orange solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.09 (s, 1H), 8.43 (t, J=7.3 Hz, 1H), 7.90-8.04 (m, 2H), 7.72-7.83 (m, 2H), 7.38 (d, J=8.5 Hz, 1H), 7.26-7.33 (m, 4H), 7.17-7.24 (m, 1H), 4.11 (s, 2H).

reactant | 5-Benzyl-2-(4-(dimethoxymethyl)-2-fluorophenyl)benzo[d]oxazole | 0.424 mmol, 0.160 g | C(C1=CC=CC=C1)C=1C=CC2=C(N=C(O2)C2=C(C=C(C=C2)C(OC)OC)F)C1 | C23H20FNO3
reactant | HCl | 5N, 1 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(5-benzylbenzo[d]oxazol-2-yl)-3-fluorobenzaldehyde | C(C1=CC=CC=C1)C=1C=CC2=C(N=C(O2)C2=C(C=C(C=O)C=C2)F)C1 | C21H14FNO2
